US04181677
A solution of 16.3 g. of p-fluorobenzoylacetonitrile and 18.3 ml. of triethyl orthoacetate in 35 ml. of acetic anhydride is heated on a steam bath for 2.5 hours. The solvents are removed in vacuo and the residue is distilled at 165°-167° C./300μ. Upon cooling, this distillate solidifies and is recrystallized from methylene chloride/hexane to give the desired 2-(p-fluorobenzoyl)-3-ethoxycrotononitrile, m.p. 77°/89° C.

reactant | p-fluorobenzoylacetonitrile | FC1=CC=C(C(=O)CC#N)C=C1 | C9H6FNO
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(p-fluorobenzoyl)-3-ethoxycrotononitrile | FC1=CC=C(C(=O)/C(/C#N)=C(\C)/OCC)C=C1 | C13H12FNO2
